US04777263
2-Imidazolyl-2'-acetonaphthone (1)
To a solution of 68.32 g (1.004 mol) of imidazole dissolved in 150 ml of methanol at 0° C. (ice-bath) is added dropwise a solution of 2-bromo-2'-acetonaphthone (50 g, 0.201 mol) in 100 ml of dioxane and 25 ml of ether, while keeping the temperature at 0° C. After about 3 hours at 0° C., the mixture is allowed to warm to room temperature where it is stirred for 20 hours. The mixture is then filtered and added to 500 ml of water, extracted 3 times with 500 ml of chloroform, dried over magnesium sulfate, and evaporated under reduced pressure. The brown oil that remaines is crystallized with a small amount of ethyl acetate and hexane and collected by filtration. The solid is heated in ethyl acetate and filtered hot then concentrated enough to recrystallized the produce as a light tan solid. Yield: 31.07 g (65%); m.p. 125°-126° C. (Found: C, 76.03; H, 5.25; N, 11.81. C15H12N2O requires: C, 76.25; H, 5.12; N, 11.86).

reactant | imidazole | 1.004 mol, 68.32 g | N1C=NC=C1 | C3H4N2
reactant | 2-bromo-2'-acetonaphthone | 0.201 mol, 50 g | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
solvent | methanol | 150 ml | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ether | 25 ml | CCOCC | C4H10O
product | 2-Imidazolyl-2'-acetonaphthone | N1C(=NC=C1)CC(=O)C1=CC2=CC=CC=C2C=C1 | C15H12N2O
